US04044142
A suspension of 3.5 g of 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione, 5.5 g of glycine, 5.5 g of sodium carbonate, 100 ml of ethanol and 30 ml of water was refluxed with stirring for an hour and the mixture was poured into water. The pH of the solution was adjusted to 4 by addition of 2N hydrochloric acid and was extracted with chloroform. The mixture was filtered and the filtrate was dried over magnesium sulfate and evaporated to dryness. The gummy residue was crystallized by trituration with methanol and the mixture was filtered. The recovered solid was crystallized from ethanol to obtain 3.1 g (77% yield) of 2-carboxymethylamino-7-chloro-5-phenyl-3H-1,4-benzodiazepine melting at 215°-220° C.

reactant | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione | 3.5 g | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | glycine | 5.5 g | NCC(=O)O | C2H5NO2
reactant | sodium carbonate | 5.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-carboxymethylamino-7-chloro-5-phenyl-3H-1,4-benzodiazepine | 3.1 g, 77% yield | C(=O)(O)CNC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C17H14ClN3O2
